US07259183B2
Preparation of 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-(2-pyridin-4-yl-ethyl)-amide 99
268 mg (1 mmol) of (4-tert-butyl-benzyl)-(2-pyridin-4-yl-ethyl)-amine, 196 mg (1 mmol) of 5-chloro-1H-indole-7-carboxylic acid and 217 mg (1.1 mmol) of EDC.HCl were stirred over night at rt in 20 ml DCM. The product was purified by column chromatography (silica gel; EtOAc) to yield 210 mg (47%) product as a colorless oil. MS (ISP) 446.0 (M+H)+.

reactant | (4-tert-butyl-benzyl)-(2-pyridin-4-yl-ethyl)-amine | 1 mmol, 268 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC=NC=C2)C=C1 | C18H24N2
reactant | 5-chloro-1H-indole-7-carboxylic acid | 1 mmol, 196 mg | ClC=1C=C2C=CNC2=C(C1)C(=O)O | C9H6ClNO2
reactant | EDC.HCl | 1.1 mmol, 217 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-(2-pyridin-4-yl-ethyl)-amide | 210 mg, 47% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=C(C=C3C=CNC23)Cl)CCC2=CC=NC=C2)C=C1 | C27H28ClN3O
